US07411076B2
(1) Preparation of 3-amino-7-hydroxy-2H-1-benzopyran-2-one.
A mixture of N-(7-hydroxy-2-oxo-2H-1-benzopyran-3-yl)benzamide (230 mg, 0.82 mmol), 1-propanol (6 ml) and concentrated hydrochloric acid (2 ml) was refluxed for 3 hours. Then, hydrochloric acid (2 ml) was added and the mixture was refluxed for further 7 hours. After cooling, the reaction mixture was poured into saturated aqueous sodium hydrogen carbonate and extracted with ethyl acetate. The ethyl acetate layer was washed successively with water and saturated brine, and after the layer was dried over anhydrous sodium sulfate, the residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (eluent: dichloromethane/ethyl acetate=2/1) to give the title compound as a yellow solid (127 mg, 87.7%).

reactant | N-(7-hydroxy-2-oxo-2H-1-benzopyran-3-yl)benzamide | 0.82 mmol, 230 mg | OC1=CC2=C(C=C(C(O2)=O)NC(C2=CC=CC=C2)=O)C=C1 | C16H11NO4
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1-propanol | 6 ml | C(CC)O | C3H8O
product | 3-amino-7-hydroxy-2H-1-benzopyran-2-one | 127 mg, 87.7% | NC=1C(OC2=C(C1)C=CC(=C2)O)=O | C9H7NO3
